US08071595B2
To a pre-cooled 0° C. solution of 1-(4-(benzyloxy)phenyl)-2-(4-methoxyphenyl)-ethanone (2 g, 6.02 mmol) in THF (20 mL) under an inert atmosphere was added t-BuOK (8 mL, 1.0 N solution in THF). The mixture was then stirred for 30 minutes. 2-Bromo-2-methylpropanoyl cyanide (2 g, 12 mmol) was then added to then reaction mixture and stirring was continued for an additional 16 h. The reaction mixture was then quenched with cold water (10 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (30 mL) and brine (30 mL), and then dried over Na2SO4 concentrated and purified via silica gel column chromatography (10-15% Ethyl acetate in hexanes) to afford 5-(4-(benzyloxy)phenyl)-4-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one (100 mg) as a white solid.

reactant | 1-(4-(benzyloxy)phenyl)-2-(4-methoxyphenyl)-ethanone | 6.02 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)OC)=O | C22H20O3
reactant | t-BuOK | 1.0 N, 8 mL | CC(C)(C)[O-].[K+]
reactant | 2-Bromo-2-methylpropanoyl cyanide | 12 mmol, 2 g | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(4-(benzyloxy)phenyl)-4-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one | 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OC | C26H24O4
